US06294668B1
(E)-(6R,7R)-3-(1-Cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-7-(2-phenylsulfanyl-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
With 167.0 mg (1.03 mmol) 1,1′-carbonyldiimidazole, 173.0 mg (1.03 mmol) 2-(phenylthio)acetic acid and 300.0 mg (0.86 mmol) (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-l-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in 6 ml N,N-dimethylformamide.

reactant | 1,1′-carbonyldiimidazole | 1.03 mmol, 167.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(phenylthio)acetic acid | 1.03 mmol, 173.0 mg | C1(=CC=CC=C1)SCC(=O)O | C8H8O2S
reactant | (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-l-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.86 mmol, 300.0 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1CC1)=O | C16H19N3O4S
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (E)-(6R,7R)-3-(1-Cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-7-(2-phenylsulfanyl-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C1(CC1)CN1C(\C(\CC1)=C\C1=C(N2C([C@H]([C@H]2SC1)NC(CSC1=CC=CC=C1)=O)=O)C(=O)O)=O | C24H25N3O5S2
